Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
aortic occlusion w/ b/l leg ischemia
 
Major Surgical or Invasive Procedure:
ax-bifem bypass ___

 
History of Present Illness:
Hx obtained from ___ chart, Ms. ___, son, and 
daughter-in-law. ___ is a ___ w/ hx of Afib not on AC, 
HTN, recently diagnosed SSS s/p ___ ___, and recent L1-L3 
posterior laminectomy ___ for severe lumbar stenosis who is 
presenting as a txf'r from ___ s/s and CTA c/f aortic 
occlusion w/ acute b/l leg ischemia. She was recently diagnosed 
w/ Afib and initially placed on eliquis, but had severe 
epistaxis requiring balloon tamponade and it was held.

She then presented to ___ for a ___ day hx of 
intermittent b/l leg weakness & numbness, and difficulty 
walking, and was hospitalized ___ to ___. An MRI was 
obtained showing severe lumbar stenosis, for which elective 
surgical intervention was planned. She was also noted to be 
bradycardic and having sinus pauses, and a pacemaker was 
subsequently placed ___.

She presented again on ___ for worsening sx and she 
subsequently underwent L1-L3 laminectomy ___. Postop she 
continued to have weakness, and a CT was obtained which showed 
infrarenal aortic occlusion to femoral arteries w/ distal 
reconstitution. Vascular surgery at ___ was consulted, 
who felt the occlusion was chronic in nature. She was discharged
to rehab ___.

She presented once more from rehab to ___ today for b/l 
leg pain and abd pain. Nursing at rehab noted inability to 
palpate femoral pulses, and noted cool and mottled b/l legs 
worse
than baseline (had ?subacute/chronic mottled appearance and 
coolness per son as well). She underwent a CTA which showed 
aortic occlusion w/ less hyperintensity of b/l distal
femoral/SFA, c/f acute thrombosis. She was also noted to have 
diffuse ST changes on EKG w/ trop 0.45. She was txfr'ed here to 
the ED for further management.

While in transit she became hypotensive and was briefly on levo. 
On evaluation in the ED she was noted to be tachycardic to 
120/130s w/ sBP 100s. Her skin was mottled up to her hips, and
she had no femoral or distal signals, w/ no sensation to thighs, 
and no motor function of b/l feet. She initially denied abd pain 
but later endorses pain.
 
Past Medical History:
Afib not on AC, HTN, recently diagnosed SSS s/p ___ ___, 
HLD, L1-L3 posterior laminectomy ___
 
Social History:
___
Family History:
son w/ ___ for SSS
 
Brief Hospital Course:
While on OR table prior to starting, Ms. ___ underwent cardiac 
cath during which no coronary vessels required stenting. She 
then underwent axillary-bifemoral bypass - for details please 
refer to operative note. Following surgery it was noted that her 
abdomen was increasingly distended and her lactate was rising. 
She additionally had a new pressor requirement. ACS was 
consulted for possible ex-lap and bowel resection given concern 
for bowel ischemia at this point.

Upon discussion with Ms. ___ son, he felt that further 
extensive surgery would not be aligned with her wishes or goals 
of care - he declined at the time and wished to call the rest of 
his family to discuss. Ms. ___ was taken to ICU for further 
management, with escalating pressor requirement. The son called
after discussing with his family, and confirmed DNR/DNI status 
and CMO, which she was made at ~17:21.

Her pressor support was ceased and she was terminally extubated. 
Was called to the bedside for evaluation and on evaluation she 
noted to have no palpable carotid or femoral pulses bilaterally.
No breath or heart sounds were auscultated. Vestibulo-ocular 
reflex was not intact. She was pronounced dead at 18:30.

Son was notified who declined autopsy. Coroner's office and 
admitting were also notified.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a

 
Discharge Condition:
n/a

 
Discharge Instructions:
n/a
 
Followup Instructions:
___